US06555557B1
Preparation of 3-(3-cyanopyridin-4-yl)-1-propanol
Diisopropylamine (2.5 g, 25 mmol) is dissolved in THF (30 ml), and thereto is added a solution of n-butyl lithium in hexane (14.3 ml, 24 mmol) at −70° C. The mixture is stirred for 15 minutes, and thereto is added a solution of 3-cyano-4-methylpyridine (2.4 g, 20 mmol) obtained in Reference Example 33 in THF (20 ml). Ten minutes thereafter, ethylene oxide (1.1 g, 24 mmol) is added to the mixture, and the mixture is warmed to 20° C. over a period of time for one hour. The reaction is quenched with a saturated brine (50 ml), and the mixture is extracted with ethyl acetate (150 ml×2). The organic layer is washed with a saturated brine (100 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate/hexane) to give the title compound (1.2 g) as a pale brown oil.

reactant | Diisopropylamine | 25 mmol, 2.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 24 mmol, 14.3 ml | CCCCCC | C6H14
reactant | 3-cyano-4-methylpyridine | 20 mmol, 2.4 g | C(#N)C=1C=NC=CC1C | C7H6N2
reactant | ethylene oxide | 24 mmol, 1.1 g | C1CO1 | C2H4O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(3-cyanopyridin-4-yl)-1-propanol | 1.2 g | C(#N)C=1C=NC=CC1CCCO | C9H10N2O
